US07067529B2
To a stirred solution of 1-(3-ethoxy-benzoyl)-6-(2-hydroxy-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde (70 mg, 0.17 mmol) in t-butanol (1 mL) and water (1 mL) solution was added sodium dihydrogenphosphate monohydrate (97 mg, 0.71 mmol), 2-methyl-2-butene (0.12 mL, 1.06 mmol) and sodium chlorite (98.0 mg, 1.06 mmol) at room temperature. The reaction suspension was then stirred at room temperature for 14 hrs. The resulting two-phase mixture was partitioned between dichloromethane and water and acidified to pH=3 by addition of acetic acid. The aqueous phase was then extracted with dichloromethane (3×20 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (30 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a brown semi-solid oil. The crude product was recrystallized in ethyl acetate to afford 1-(3-ethoxy-benzoyl)-6-(2-hydroxy-ethoxy)-7-methoxy-isoquinoline-4-carboxylic acid (40 mg, 57% yield) as a light yellow solid. HR-MS m/e calcd for C24H25N1O7 (M−H+) 412.1391, found 412.1394; 1H NMR (300 MHz) compatible.

reactant | 1-(3-ethoxy-benzoyl)-6-(2-hydroxy-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde | 0.17 mmol, 70 mg | C(C)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OCCO)C=O)C=CC1 | C22H21NO6
reactant | sodium dihydrogenphosphate monohydrate | 0.71 mmol, 97 mg | O.P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 1.06 mmol, 0.12 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 1.06 mmol, 98.0 mg | Cl(=O)[O-].[Na+]
solvent | t-butanol | 1 mL | C(C)(C)(C)O | C4H10O
solvent | water | 1 mL | O | H2O
product | 1-(3-ethoxy-benzoyl)-6-(2-hydroxy-ethoxy)-7-methoxy-isoquinoline-4-carboxylic acid | 40 mg, 57% yield | C(C)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OCCO)C(=O)O)C=CC1 | C22H21NO7
